* AD103 Lab 02 - one resistor, one diode, one supply. What is the current?
*
* This is the first circuit in this course that you cannot solve the way
* ECE110 taught you. Two elements in series across 1.8 V:
*
*     1.8 V ---[ R ]--- node ---|>|--- 0
*
* Kirchhoff gives you  (1.8 - v_node)/R = I_diode(v_node), and the right-hand
* side is an exponential. There is no rearrangement of that equation that ends
* with v_node on one side by itself. ngspice does not rearrange it either - it
* guesses and corrects until both sides agree.
*
*   ngspice -b spice/load_line.spice

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice.tt.red tt

Vdd vdd 0 dc 1.8

* --- three loads, three operating points -------------------------------------
R1 vdd n1 10k
XD1 n1 0 sky130_fd_pr__diode_pw2nd_05v5 area=1 perim=4

R2 vdd n2 100k
XD2 n2 0 sky130_fd_pr__diode_pw2nd_05v5 area=1 perim=4

R3 vdd n3 1meg
XD3 n3 0 sky130_fd_pr__diode_pw2nd_05v5 area=1 perim=4

.control
op
let i_10k  = (1.8 - v(n1))/10e3
let i_100k = (1.8 - v(n2))/100e3
let i_1meg = (1.8 - v(n3))/1e6
echo "--- diode voltage at the operating point (volts) ---"
echo "    R = 10 kohm, 100 kohm, 1 Mohm"
print v(n1) v(n2) v(n3)
echo "--- and the current through it (amps) ---"
print i_10k i_100k i_1meg
.endc
.end
